US07176224B2
A mixture of 2-(4-hydroxybenzyl)-2-phenoxybutyric acid ethyl ester (0.030 mmol) (see Ex. 40, Part C), toluene-4-sulfonic acid 2-(2-biphenyl-3-yl-5-methyloxazol-4-yl)ethyl ester (0.030 mmol) (see Ex. 2, Part F) and 325 mesh K2CO3 (0.084 g, 0.60 mmol) in ethanol (2 mL) was heated to reflux for 24 h under N2. Aqueous 5N NaOH (0.5 mL) and additional ethanol (1 mL) was added to the reaction mixture and it was heated at reflux for an additional 2 h. The reaction was cooled and the solvent removed in vacuo. The residue was acidified with aqueous 1 N HCl (5 mL), extracted with water and CH2Cl2 and the organic layer dried by passing it through a Varian Chem Elut 1003 cartridge. The solvent was removed in vacuo to give 2-{4-[2-(2-biphenyl-3-yl-5-methyl-oxazol-4-yl)-ethoxy]-benzyl}-2-phenoxy-butyric acid. 1H NMR (400 MHz, CDCl3) δ 8.30–8.20 (m, 1H), 7.96–7.93 (m, 1H), 7.68–7.63 (m, 3H), 7.53–7.43 (m, 3H), 7.39–7.34 (m, 1H), 7.32–7.24 (m, 2H), 7.09–7.05 (m, 1H), 7.02–6.97 (m, 4H), 6.78–6.73 (m, 2H), 4.20 (t, 2H, J=6.4 Hz), 3.29 (s, 2H), 3.01 (t, 2H, J=6.4 Hz), 2.39 (s, 3H), 2.14 (qd, 1H, J=14.8, 7.6 Hz), 2.08 (qd, 1H, J=14.8, 7.6 Hz), 0.91 (t, 3H, J=7.6 Hz.

reactant | 2-(4-hydroxybenzyl)-2-phenoxybutyric acid ethyl ester | 0.030 mmol | C(C)OC(C(CC)(OC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C19H22O4
reactant | toluene-4-sulfonic acid 2-(2-biphenyl-3-yl-5-methyloxazol-4-yl)ethyl ester | 0.030 mmol | C1(=CC(=CC=C1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C)C1=CC=CC=C1 | C25H23NO4S
reactant | K2CO3 | 0.60 mmol, 0.084 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaOH | 5N, 0.5 mL | [OH-].[Na+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2-{4-[2-(2-biphenyl-3-yl-5-methyl-oxazol-4-yl)-ethoxy]-benzyl}-2-phenoxy-butyric acid | C1(=CC(=CC=C1)C=1OC(=C(N1)CCOC1=CC=C(CC(C(=O)O)(CC)OC2=CC=CC=C2)C=C1)C)C1=CC=CC=C1 | C35H33NO5
